* Z:\mnt\spice-netlists\LTC3545.asc
V1 IN 0 5
L1 N001 OUT1 1.5µ
R1 N003 0 255K
XU1 N001 N002 IN N005 N004 0 IN N007 0 IN N008 N006 N003 IN IN 0 LTC3545
R2 OUT1 N003 511K
C2 OUT1 N003 10p
R3 N006 0 226K
R4 OUT2 N006 226K
C4 OUT2 N006 10p
R5 N008 0 200K
R6 OUT3 N008 301K
C6 OUT3 N008 10p
R7 N002 IN 500K
R8 IN N005 500K
Rload1 OUT1 0 2.25
Rload2 OUT2 0 1.5
Rload3 OUT3 0 1.875
C1 OUT1 0 10µ
C3 OUT2 0 10µ
C5 OUT3 0 10µ
L2 N004 OUT2 1.5µ
L3 N007 OUT3 1.5µ
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
* LTC3445 - Triple 800mA Step-Down Regulator - 2.25MHz\nInput: 2.25V to 5.5V     Outputs: 1.8V@800mA, 1.2A@800mA and 1.5V@800mA
.lib LTC3545.sub
.backanno
.end
