* Z:\mnt\spice-netlists\LTC3547.asc
L1 N003 OUT1 4.7µ
R1 OUT1 N005 150K
V1 IN 0 5
C1 OUT1 0 4.7µ
R2 N005 0 75K
I1 OUT1 0 300m load
C2 OUT1 N005 10p
L2 N002 OUT2 4.7µ
C3 OUT2 N004 10p
R3 N004 0 105K
C4 OUT2 0 4.7µ
I2 OUT2 0 300m load
R4 OUT2 N004 475K
C5 IN 0 4.7µ
XU1 N005 IN IN N003 0 N002 IN N004 LTC3547
.tran 1.2m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LTC3547 - Dual Monolithic 300mA Synchronous Step-Down Regulator\nInput: 5V     Outputs: 1.8V@300mA  and 3.3V@300mA
.lib LTC3547.sub
.backanno
.end
