* Z:\mnt\spice-netlists\LTC3548.asc
V1 IN 0 5
C1 OUT1 0 10µ
L1 N002 OUT1 2.2µ
R1 N004 0 402K
R2 OUT1 N004 604K
C2 OUT2 0 4.7µ
L2 N001 OUT2 4.7µ
R3 N003 0 280K
R4 OUT2 N003 887K
C3 OUT2 N003 68p
C4 OUT1 N004 33p
XU1 N004 IN IN N002 0 IN N001 MP_01 IN N003 LTC3548
Rload1 OUT1 0 10
Rload2 OUT2 0 25
.tran .3m startup
* LTC3548 - Dual Synchronous, 400mA/800mA, 2.25MHz Step-Down DC/DC Regulator\nInput: 5V   Outputs: 1.5V and 2.5V, Component value selected based on DC822 Demo circuit
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC3548.sub
.backanno
.end
