* Z:\mnt\spice-netlists\LTC3549.asc
L1 N001 OUT 3.3µ
R1 OUT N002 97.6K
V1 IN 0 3.3
C2 OUT 0 2µ
R2 N002 0 102K
I1 OUT 0 PULSE(.05 .2 1m 5n 5n 50u 100u) load
C1 IN 0 1µ
C3 OUT N002 40p
XU1 IN 0 N001 0 IN N002 LTC3549
C4 N002 0 20p
.tran 1.25m startup
* LTC3549 - 250mA Low Vin Buck Regulator in 2mm × 3mm DFN\nInput: 3.3V     Output:  1.2V @ 250mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2007 Linear Technology Inc. All rights reserved.
.lib LTC3549.sub
.backanno
.end
