* Z:\mnt\spice-netlists\LTC3604.asc
L1 N004 OUT 1.5µ
R1 OUT N006 200K
V1 IN 0 12
R2 N006 0 100K
R3 N003 0 324K
R4 N009 N008 14K
C1 OUT 0 47µ
C2 IN 0 22µ
C3 N009 0 150p
C4 N002 N004 0.1µ
C5 N001 0 2.2µ
C6 N007 0 0.01µ
D1 N001 N002 CMDSH2-3
XU1 0 NC_01 N004 MP_02 MP_03 N002 N001 OUT 0 N003 N006 N008 N007 IN IN MP_04 0 LTC3604
S§Load 0 OUT N005 0 Load
V2 N005 0 pulse(0 1 4.5m 1u 1u 100u 200u)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
* LTC3604 - 2.5A, 15V Monolithic Synchronous Step-down Regulator\nInput: 12V     Output: 1.8V @ 2.5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.model Load SW(Ron=.8 Roff=7.2 Vt=.5 Vh=-.45)
* 10% / 90% load step
.lib LTC3604.sub
.backanno
.end
