* Z:\mnt\spice-netlists\LTC3610.asc
C1 N005 0 .001µ
C2 N009 0 100p
V1 IN 0 12
L1 N004 OUT 0.47µ
C3 N004 N006 .22µ
D1 N002 N006 CMDSH2-3
R1 N008 0 60.4K
R2 OUT N008 60.4K
C4 OUT 0 100µ
Rload OUT 0 .1
R3 IN N003 137K
C5 N002 0 4.7µ
R4 N002 N007 39.2K
R5 N007 0 11K
C6 N010 0 1500p
R6 N009 N010 4.75K
C7 OUT 0 100µ
C8 IN 0 10µ
R7 N002 N001 100K
XU1 0 MP_01 MP_02 N004 MP_03 MP_04 MP_05 MP_06 MP_07 MP_08 MP_09 IN MP_10 MP_11 MP_12 MP_13 MP_14 MP_15 MP_16 MP_17 MP_18 MP_19 MP_20 MP_21 MP_22 MP_23 MP_24 0 N006 N005 MP_25 MP_26 MP_27 MP_28 OUT N001 N007 N009 N002 MP_29 N003 MP_30 N008 NC_31 MP_32 MP_33 MP_34 MP_35 MP_36 MP_37 MP_38 MP_39 N002 LTC3610
C9 IN 0 10µ
C10 OUT 0 100µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2.2m startup
* LTC3610 - 24V, 12A Monolithic Synchronous Step-Down DC/DC Converter\nInput: 12V              Output: 1.2V @ 12A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LTC3610.sub
.backanno
.end
