* Z:\mnt\spice-netlists\LTC3642.asc
XU1 N001 IN NC_01 N004 N002 N003 0 0 LTC3642
V1 IN 0 20
L1 N001 OUT 100µ
R1 OUT N003 1.47Meg
R2 N003 0 280K
C1 OUT 0 10µ
C2 IN 0 2.2µ
R3 IN N002 2Meg
C3 N004 0 6.8n
I1 OUT 0 PULSE(0m 50m 4m 1n 1n 1m 2m)
.tran 7m startup
* LTC3642 Design - High Efficiency, High Voltage 50mA Synchronous Step Down Converter\nInput: 4.5 to 45V    Output: 5V @ 50mA Component values selected similar to DC1429A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC3642.sub
.backanno
.end
